US04835281
An inproved method is disclosed in the European Patent Application No. 128,736 of the same company, where the chromatographic purification could be avoided only by preparing and using an iminoether base of substantially higher purity. From 3-(2-guanidino-thiazol-4-yl-methylthio)-propionitrile solid iminoether base was prepared with a yield of 78.8%, which was reacted with 2.2 molar equivalents of sulfamide in a methanolic medium, at 20° to 30° C. for three days. The crude product obtained with a yield of 62% was recrystallized from aqueous dimethyl formamide, and the obtained material was again precipitated with a base, after dissolution in a mixture of water and acetic acid. The total yield for crude famotidine was accordingly merely 48.8%. The main disadvantage of this process is the high consumption of sulfamide, the many and cumbersome steps involved in the process and that it is very time consuming.

reactant | iminoether | N=O | HNO
reactant | 3-(2-guanidino-thiazol-4-yl-methylthio)-propionitrile | N(C(=N)N)C=1SC=C(N1)CSCCC#N | C8H11N5S2
reactant | sulfamide | S(=O)(=O)(N)N | H4N2O2S
product | famotidine | yield of 78.8% | C1=C(N=C(S1)NC(=N)N)CSCCC(=N)NS(=O)(=O)N | C8H15N7O2S3
